US07622471B2
1-(6-Ethyl-3-pyridyl)-1,4-dihydroindeno[1,2-c]pyrazole-3-carboxylic acid ethyl ester
Sodium nitrite (228 mg) in water (1 mL) was added dropwise to 5-amino-2-ethylpyridine (359 mg) in concentrated hydrochloric acid (3 mL) under cooling with ice with sodium chloride over a period of 10 minutes, followed by stirring at a constant temperature for 10 minutes. Tin(II) chloride dihydrate (2.37 g) in concentrated hydrochloric acid (1.6 mL) was added dropwise to the reaction mixture over a period of 10 minutes, followed by stirring with ice cooling for 3 hours. 2-Oxo-2-(1-oxoindan-2-yl)acetic acid ethyl ester (696 mg) obtained from Referential Example 62 in ethanol (20 mL) was added to the reaction mixture. The resultant mixture was refluxed under heat for 39 hours. Under cooling with ice, the reaction mixture was alkalinized by use of an aqueous solution of sodium hydroxide. The resultant mixture was partitioned between ethyl acetate and water. The organic layer was sequentially washed with water and saturated brine, and then dried over sodium sulfate anhydrate. Subsequently, the mixture was subjected to filtration. The solvent was evaporated under reduced pressure. The residue was purified through silica gel column chromatography (chloroform-acetone), to thereby give the title compound as crystals (372 mg, 37%).

reactant | Sodium nitrite | 228 mg | N(=O)[O-].[Na+]
reactant | 5-amino-2-ethylpyridine | 359 mg | NC=1C=CC(=NC1)CC | C7H10N2
reactant | sodium chloride | [Cl-].[Na+]
reactant | Tin(II) chloride dihydrate | 2.37 g | O.O.[Sn](Cl)Cl
reactant | 2-Oxo-2-(1-oxoindan-2-yl)acetic acid ethyl ester | 696 mg | C(C)OC(C(C1C(C2=CC=CC=C2C1)=O)=O)=O | C13H12O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 1 mL | O | H2O
solvent | hydrochloric acid | 3 mL | Cl | ClH
solvent | hydrochloric acid | 1.6 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1-(6-Ethyl-3-pyridyl)-1,4-dihydroindeno[1,2-c]pyrazole-3-carboxylic acid ethyl ester | 372 mg, 37% | C(C)OC(=O)C=1C2=C(N(N1)C=1C=NC(=CC1)CC)C1=CC=CC=C1C2 | C20H19N3O2
